US07332529B2
Synthesis of 3,5-dinonoxybenzyl Azide
Sodium azide (3.25 g, 50.0 mmol) and DMF (25 mL) were introduced into a 1 L RBF containing 3,5-dinonoxybenzylchloride (10.0 g, 25.0 mmol) and a stir bar. The reaction mixture was then capped with a septum and an out-vent needle. The mixture was heated until warm to touch, allowed to cool to room temperature, then heated again (repeated 4 times). The mixture was then transferred to a separatory funnel and diluted with 500 mL distilled water and washed with ether (4 times using 100 mL). The combined ether layers were washed with ammonium chloride (2 times with 50 mL), then dried with magnesium sulfate and gravity filtered into a 1 L RBF. The solvent was removed under reduced pressure and the trace solvent was removed with a high vacuum. The compound was purified by flash column chormatography (silica gel using 1 L pure hexanes, 1 L 5% ether and hexanes, 1 L 10% ether and hexanes). The product was present in all fractions, the solvent was removed by rotary evaporation and then the trace solvent was removed by a high vacuum. The resulting yellow oil was dissolved in 400 mL ethanol and placed in a freezer overnight. Extreme crystal growth was present in the morning. The mixture was then vacuum filtered and the crystals were collected and air dried while the filtrate was placed in the freezer. Analysis of the crystals indicates they are impurities. As a result, the solvent was removed from the filtrate using rotary evaporation and the trace solvent was then removed using high vacuum. There was a 5.3 g yield or a 51.4% yield of the derivative. The NMR characterization data for this derivative is as follows. 1H NMR (300 MHz, CDCl3): 0.88 (t, J=6.3, 6H, CH2CH3), 1.1-1.55 (m, 28H, CH2(CH2)6), 1.76 (p, J=6.6, 4H, OCH2CH2), 3.93 (t, J=6.6, 4H,), 4.24 (s, 2H,) 6.42 (q, J=2.2, 1H, ArH). 13C (75 MHz, CDCl3): 160.68, 137.45, 106.52, 101.10, 68.19, 55.01, 31.95, 31.02, 29.47, 29.34, 29.31, 26.12, 22.76, 14.20.

reactant | Sodium azide | 50.0 mmol, 3.25 g | [N-]=[N+]=[N-].[Na+]
reactant | 3,5-dinonoxybenzylchloride | 25.0 mmol, 10.0 g | C(CCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCC | C25H43ClO2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3,5-dinonoxybenzyl Azide | 51.4% yield | C(CCCCCCCC)OC=1C=C(CN=[N+]=[N-])C=C(C1)OCCCCCCCCC | C25H43N3O2
